US07375204B2
N-methyl-N-(2-propynyl)methanesulfonamide
Triethylamine (6.55 ml) was added to an ice-cooled solution of N-methyl-N-(2-propynyl)amine (2603 mg) in methylene chloride (25 ml). Methanesulfonyl chloride (3.50 ml) was further added dropwise, the reaction mixture was stirred at that temperature for 1 hour, and then stirred further at room temperature for 2 hours. After ice was added, the reaction mixture was extracted with ethyl acetate, washed successively with 1 N hydrochloric acid, a saturated aqueous sodium hydrogencarbonate solution, and saturated brine, dried over anhydrous magnesium sulfate, and then filtered through silica gel. The filtrate was concentrated under reduced pressure to give the title compound (4522 mg). The obtained compound was used in the following reaction without further purification.

reactant | Triethylamine | 6.55 ml | C(C)N(CC)CC | C6H15N
reactant | N-methyl-N-(2-propynyl)amine | 2603 mg | CNCC#C | C4H7N
reactant | Methanesulfonyl chloride | 3.50 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-N-(2-propynyl)methanesulfonamide | 4522 mg | CN(S(=O)(=O)C)CC#C | C5H9NO2S
